US04372953
2-(3-Chloropropyl)thiopyridine (4.4 g) prepared in Reference Example 3 is dissolved in formic acid (40 ml). 30% Aqueous hydrogen peroxide (2.7 g) is added to the solution and the mixture is stirred at room temperature for 3 hours. The mixture is allowed to stand at room temperature for overnight, diluted with water and extracted with chloroform. The chloroform solution is washed with water, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride and dried over magnesium sulfate. Chloroform is distilled off and the residue is purified by column chromatography (Kieselgel 60). The column is eluted with chloroform-methanol (50:1) to obtain 2-pyridyl 3-chloropropyl sulfoxide (2.7 g) as colorless liquid.

reactant | 2-(3-Chloropropyl)thiopyridine | 4.4 g | ClCCCSC1=NC=CC=C1 | C8H10ClNS
reactant | hydrogen peroxide | 2.7 g | OO | H2O2
solvent | formic acid | 40 ml | C(=O)O | CH2O2
solvent | water | O | H2O
product | 2-pyridyl 3-chloropropyl sulfoxide | 2.7 g | ClCCCS(=O)C1=NC=CC=C1 | C8H10ClNOS
